US07141561B2
4-[4-(2-Dimethylaminoethoxy)phenyl]-2-(4-phenoxyphenyl)-2,4-dihydro-[1,2,4]triazol-3-one
1-Formyl-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]semicarbazide (60 mg) was added to a solution of potassium hydroxide (15 mg) in methanol (20 mL). After 4 hours at room temperature, the mixture was heated at 40° C. for 24 hours. After cooling, the reaction solution was diluted with water and extracted with ethyl acetate. The organic phase was dried and concentrated. The product with the molecular weight of 416.48 (C24H24N4O3); MS (ESI): 417 ([M+H]+), was obtained in this way.

reactant | 1-Formyl-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]semicarbazide | 60 mg | C(=O)NN(C(=O)NC1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H26N4O4
reactant | potassium hydroxide | 15 mg | [OH-].[K+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | 4-[4-(2-Dimethylaminoethoxy)phenyl]-2-(4-phenoxyphenyl)-2,4-dihydro-[1,2,4]triazol-3-one | CN(CCOC1=CC=C(C=C1)N1C(N(N=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C24H24N4O3
